US05728835
4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3,4-methylenedioxyphenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3,4-methylenedioxyphenyl)benzamide (245.0 mg, 0.501 mmol) and acetic anhydride (0.057 ml, 0.60 mmol), the procedure of Inventive Example 94 was repeated to obtain 210.3 mg (79.0%) of the title compound in a colorless amorphous form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3,4-methylenedioxyphenyl)benzamide | 0.501 mmol, 245.0 mg | NC1=CC=C(C(=O)N(C2=CC3=C(C=C2)OCO3)CCN3CCC(CC3)C(C3=CC=C(C=C3)F)=O)C=C1 | C28H28FN3O4
reactant | acetic anhydride | 0.60 mmol, 0.057 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3,4-methylenedioxyphenyl)benzamide | 210.3 mg, 79.0% | C(C)(=O)NC1=CC=C(C(=O)N(C2=CC3=C(C=C2)OCO3)CCN3CCC(CC3)C(C3=CC=C(C=C3)F)=O)C=C1 | C30H30FN3O5
